US07566721B2
1-(2-Phenylquinolin-7-yl)-ethanol
Into the THF (50 ml) solution of MeMgBr (3M in Et2O, 5.6 mL, 1.5 eq.) was added dropwise the THF (40 ml) solution of 2-phenylquinoline-7-carbaldehyde (2625 mg, 11.25 mmol) under N2 at rt over 20 min. After stirring at rt for 3 h, the reaction mixture was treated with saturated aqueous NH4Cl solution (100 ml), and the organic phase was separated. The aqueous phase was extracted with EtOAc (2×100 ml). The combined organic phases were then washed with H2O (2×100 ml) and brine (100 ml), dried over MgSO4, filtered and concentrated to give the title compound as brown oil. The crude material was used for the next step without further purification. 1H NMR (CDCl3, 400 MHz): δ=1.60-1.62 (d, 3H, J=6.4 Hz), 2.08 (brs, 1H), 5.11-5.14 (m, 1H), 7.44-7.60 (m, 4H), 7.81-7.83 (d, 1H, J=8.4 Hz), 7.85-7.87 (d, 1H, J=8.4 Hz), 8.13-8.17 (m, 3H), 8.19-8.21 (d, 1H, J=8.4 Hz). MS (ES+): 250.3 [MH+]. HPLC: tR=2.9 min (MicromassZQ, polar—5 min).

reactant | MeMgBr | 3M, 5.6 mL, 1.5 eq. | C[Mg+].[Br-]
reactant | 2-phenylquinoline-7-carbaldehyde | 11.25 mmol, 2625 mg | C1(=CC=CC=C1)C1=NC2=CC(=CC=C2C=C1)C=O | C16H11NO
reactant | NH4Cl | 100 ml | [NH4+].[Cl-]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 1-(2-Phenylquinolin-7-yl)-ethanol | C1(=CC=CC=C1)C1=NC2=CC(=CC=C2C=C1)C(C)O | C17H15NO
